Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest Tightness
 
Major Surgical or Invasive Procedure:
___: 
1. Coronary artery bypass graft x 2. Total arterial
revascularization.
2. Skeletonized left internal mammary artery graft to left
anterior descending artery.
3. Left radial artery graft to obtuse marginal artery.
 
History of Present Illness:
Mr. ___ is a ___ year old man with a past medical history of 
hypertension and hyperlipidemia who has had two episodes of 
chest tightness while at rest. He was referred for an outpatient 
stress test which was abnormal. He was then referred to to the 
ED. He was admitted and underwent cardiac catheterization which 
revealed severe left main coronary artery disease, as well as 
moderate LAD disease. Cardiac surgery was consulted for Coronary 
artery bypass graft evaluation. 
 
Past Medical History:
CAD
Hyperlipidemia
Hypertension 
Obstructive Sleep Apnea
 
Social History:
___
Family History:
Mother- CAD/PCI in her late ___. Hx of dementia, passed at ___.
Father passed from pancreatic CA at 42.
3 Maternal uncles all passed from "heart problems"
 
Physical Exam:
ADmission:
BP: 134/82  HR: 55  RR: 17  O2 sat: 95% RA   
Height: 72 in    Weight: 85.5 kg 

General: Well-developed male in no acute distress
Skin: Dry [X] intact [X]
HEENT: PERRLA [X] EOMI [X]
Neck: Supple [X] Full ROM [X]
Chest: Lungs clear bilaterally [X]
Heart: RRR [X]  Irregular []  Murmur [] 
Abdomen: Soft [X] non-distended [X] non-tender [X] bowel sounds 
+ [x]
Extremities: Warm [X], well-perfused [X] Edema [] _____
Varicosities: None [X]
Neuro: Grossly intact [X]
Pulses:
Femoral      Right: 2+  Left: 2+
DP           Right: 2+  Left: 2+
___           Right: 2+  Left: 2+
Radial       Right: 2+  Left: 2+

Carotid Bruit:    Right: -   Left: -
.
Discharge:
98.2
PO 125 / 70
R Sitting 56 18 95 Ra  
.
General: NAD [x]  
Neurological: A/O x3 [x] Moves all extremities [x]  Chemically
paralyzed [] sedated [] Follows commands [x]
HEENT:  PEERLA [] 
Cardiovascular: RRR [x]  Irregular []  Murmur [] Rub [x]  Paced
[]
Respiratory: CTA [x] diminished (B), No resp distress [x]
GI/Abdomen: Bowel sounds present [x] Soft [x] ND [x] NT [x]
Extremities: 
Right Upper extremity   Warm []  Edema   
Left Upper extremity    Warm []  Edema  
Right Lower extremity   Warm [x]  Edema trace 
Left Lower extremity    Warm [x]  Edema trace 
Sternal: CDI [x] no erythema or drainage [x]
                 Sternum stable [x] Prevena []
Lower extremity: Right [] Left []  CDI []
Upper extremity: Right [] Left [x]  CDI [x]

 
Pertinent Results:
Cardiac Catheterization ___
LMCA:  70% stenosis in the mid and distal segments.
LAD: 30% stenosis in the proximal segment; 60% stenosis in the 
proximal segment.
LCX: normal, medium caliber 
RCA: normal, large caliber vessel.

Carotid Ultrasound ___
Right ICA <40% stenosis. Left ICA <40% stenosis.

CTA Head and Neck ___
1. No acute intracranial abnormality.
2. Patent circle of ___ without definite evidence of 
stenosis, occlusion, or aneurysm.
3. Calcified and noncalcified atherosclerosis of the right ICA 
resulting in minimal narrowing (see series 2, image 14). 
Otherwise, the bilateral cervical carotids are without evidence 
of occlusion or dissection.
4. Right dominant vertebral artery without evidence of stenosis 
or occlusion. Left vertebral artery segments V1-V4 appear 
hypoplastic, without contribution to the basilar artery, which 
is a normal anatomic variant. Otherwise, patent bilateral 
vertebral arteries without definite evidence of stenosis, 
occlusion, or dissection.
5. Hyperdense osseous lesion within the right frontal bone, most 
consistent with a bone island. 
.
Transthoracic Echocardiogram ___
The left atrium is elongated. The right atrium is mildly 
enlarged. There is normal left ventricular wall thickness with a 
normal cavity size. There is mild regional left ventricular 
systolic dysfunction with
hypokinesis of the mid- and distal septum and apex (mid-LAD 
distribution; see schematic) and preserved/normal contractility 
of the remaining segments. Quantitative 3D volumetric left 
ventricular
ejection fraction is 41 % (normal 54-73%). There is no resting 
left ventricular outflow tract gradient. Mildly dilated right 
ventricular cavity with normal free wall motion. Tricuspid 
annular plane systolic
excursion (TAPSE) is normal. The aortic sinus is mildly dilated 
with mildly dilated ascending aorta. The aortic arch diameter is 
normal with a mildly dilated descending aorta. The aortic valve 
leaflets (3) appear structurally normal. There is no aortic 
valve stenosis. There is no aortic regurgitation. The mitral 
valve leaflets appear structurally normal with no mitral valve 
prolapse. There is trivial mitral
regurgitation. The pulmonic valve leaflets are normal. The 
tricuspid valve leaflets appear structurally normal. There is 
physiologic tricuspid regurgitation. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion.

IMPRESSION: Mild regional left ventricular systolic dysfunction, 
c/w CAD. No clinically significant valvular disease seen.
.
Transesophageal Echocardiogram ___
PRE-OPERATIVE STATE: Pre-bypass assessment. Sinus rhythm.
Right Atrium (RA)/Interatrial Septum/Inferior Vena Cava (IVC): 
Normal RA size. No atrial septal defect by 2D/color flow 
Doppler.
Left Ventricle (LV): Normal wall thickness. Moderately dilated 
cavity. Mild-moderate global hypokinesis.
Right Ventricle (RV): Normal cavity size. Normal free wall 
motion. No mass.
Aorta: No dissection.
Aortic Valve: Thin/mobile (3) leaflets. No stenosis. No 
regurgitation.
Mitral Valve: Normal leaflets. No stenosis. Trace regurgitation 
(nl for prosthesis).
Tricuspid Valve: Normal leaflets. Mild [1+] regurgitation. 
Central jet.
Pericardium: No effusion.

POST-OP STATE: The post-bypass TEE was performed at 17:34:00. AV 
paced rhythm.
Support: Vasopressor(s): none.
Left Ventricle: Systolic function is improved. Similar regional 
function. Global ejection fraction is mildly depressed.
Right Ventricle: No change in systolic function.
Aorta: Intact. No dissection.
Aortic Valve: No change in aortic valve morphology from 
preoperative state. Unchanged gradient. No change in aortic 
regurgitation.
Mitral Valve: No change in mitral valve morphology from 
preoperative state.
Tricuspid Valve: No change in tricuspid valve morphology vs. 
preoperative state.
.

___ 04:42AM BLOOD WBC-4.1 RBC-2.91* Hgb-9.6* Hct-29.3* 
MCV-101* MCH-33.0* MCHC-32.8 RDW-12.4 RDWSD-45.4 Plt ___
___ 04:09AM BLOOD ___ PTT-26.5 ___
___ 04:42AM BLOOD Glucose-92 UreaN-14 Creat-1.1 Na-141 
K-4.5 Cl-103 HCO3-27 AnGap-11
___ 04:42AM BLOOD Mg-2.1
 
Brief Hospital Course:
He was admitted on ___ following cardiac catheterization. 
He underwent routine preoperative testing and evaluation. A CODE 
STROKE was called on ___ for left partial ptosis. CTA head 
and neck did not show a large vessel occlusion or
large infarct, though the wet read stated he has a hypoplastic 
left vertebral artery which is likely a normal anatomic variant. 
No aneurysm or dissection seen on CTA. Isolated unilateral 
partial ptosis is unlikely to be a stroke. Neurology recommended 
proceeding with surgery as planned. He remained hemodynamically 
stable and was taken to the operating room on ___. He 
underwent coronary artery bypass grafting x 2. Please see 
operative note for full details. He tolerated the procedure well 
and was transferred to the CVICU in stable condition for 
recovery and invasive monitoring. 
 
He weaned from sedation, awoke neurologically intact and was 
extubated on POD 1. Neo weaned. He remained hypotensive and echo 
performed. No pericardial effusion. Hemodynamics improved.  Beta 
blocker was initiated and he was diuresed toward his 
preoperative weight. He remained hemodynamically stable and was 
transferred to the telemetry floor for further recovery. Small 
left apical pneumothorax following removal of CTs- resolved on 
follow-up CXR.  He was evaluated by the physical therapy service 
for assistance with strength and mobility. By the time of 
discharge on POD 5 he was ambulating freely, the wound was 
healing, and pain was controlled with oral analgesics. He was 
discharged home in good condition with appropriate follow up 
instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Aspirin EC 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  Furosemide 40 mg PO DAILY Duration: 7 Days 
RX *furosemide 40 mg 1 tablet(s) by mouth once a day Disp #*7 
Tablet Refills:*0 
4.  Isosorbide Dinitrate 5 mg PO TID 
RX *isosorbide dinitrate 5 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*5 
5.  Metoprolol Tartrate 6.25 mg PO BID 
RX *metoprolol tartrate 25 mg 0.25 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*1 
6.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 
7.  Ranitidine 150 mg PO DAILY 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*1 
8.  Atorvastatin 80 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease

Secondary Diagnosis:
Hyperlipidemia
Hypertension
Obstructive Sleep Apnea

 
Discharge Condition:
Alert and oriented x3 non-focal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
trace edema

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
Please - NO lotion, cream, powder or ointment to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics
Clearance to drive will be discussed at follow up appointment 
with surgeon
No lifting more than 10 pounds for 10 weeks
Encourage full shoulder range of motion, unless otherwise 
specified
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___